US07423150B2
The mixture containing 1-methyl-N-(4-{[4-(methylamino)-3-nitrophenyl]oxy}-pyridin-2-yl)piperidine-4-carboxamide in methanol with catalytic amount of Lindlar's catalyst was hydrogenated to yield N-(4-{[3-amino-4-(methylamino)phenyl]oxy}pyridin-2-yl)-1-methylpiperidine-4-carboxamide. MS: MH+=356.2.

reactant | 1-methyl-N-(4-{[4-(methylamino)-3-nitrophenyl]oxy}-pyridin-2-yl)piperidine-4-carboxamide | CN1CCC(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C19H23N5O4
solvent | methanol | CO | CH4O
catalyst | Lindlar's catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | N-(4-{[3-amino-4-(methylamino)phenyl]oxy}pyridin-2-yl)-1-methylpiperidine-4-carboxamide | NC=1C=C(C=CC1NC)OC1=CC(=NC=C1)NC(=O)C1CCN(CC1)C | C19H25N5O2
